US05236952
da) 0.38 ml of 65 percent nitric acid is added dropwise at room temperature to 1.15 g of 4-hydroxy-3-methoxyphenyl 3-pyridyl ketone dissolved in 15 ml of acetic acid. After stirring for 2 hours, the reaction mixture is poured into 120 ml of ice-water, whereupon the mixture is adjusted to pH 5 with conc. ammonia and the precipitate formed is filtered off. The thus-obtained residue is heated under reflux in 20 ml of acetonitrile, whereupon it is again filtered off. There is obtained 4-hydroxy-3-methoxy-5-nitrophenyl 3-pyridyl ketone as brown crystals of m.p. 193°.

reactant | nitric acid | 0.38 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxy-3-methoxyphenyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)C1=CC(=C(C=C1)O)OC | C13H11NO3
reactant | ammonia | N | H3N
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-3-methoxy-5-nitrophenyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C13H10N2O5
